US05998433
b) Synthesis of 1-(2-diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride
1-(2-Diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one 0.178 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated to yield the desired product.

reactant | 1-(2-Diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 0.178 g | C(C)N(CC)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | C24H34N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-diethylaminomethyl-5,7-dihydro-4H-furo[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride | Cl.C(C)N(CC)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)O1 | InChI=1S/C24H34N2O2.ClH/c1-3-25(4-2)18-22-17-21-15-16-26(19-23(21)28-22)24(27)14-10-6-9-13-20-11-7-5-8-12-20;/h5,7-8,11-12,17H,3-4,6,9-10,13-16,18-19H2,1-2H3;1H
